US04751225
To a suspension of sodium hydride (160 mg, 4.0 mmol; 60% in oil) in dimethylformamide (5 ml), a solution of 2-mercapto-2-thiazoline (476 mg, 4.0 mmol) in dimethylformamide (3 ml) was dropwise added with stirring, and stirring was continued until the generation of hydrogen gas ceased. To the resultant solution, there was dropwise added a solution of 2-(4-phenoxyphenoxy)ethyl bromide (1.17 g, 4.0 mmol) in dimethylformamide (3 ml), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water (80 ml) and extracted with toluene (40 ml) three times. The toluene layer was dried over anhydrous magnesium sulfate, and the solvent was removed by evaporation. The residue was purified by silica gel column chromatography to give 2-[2-(4-phenoxyphenoxy)ethylthio]-2-thiazoline (887 mg) as pale yellow crystals. M.P., 88.6° C.

reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 2-mercapto-2-thiazoline | 4.0 mmol, 476 mg | SC=1SCCN1 | C3H5NS2
reactant | hydrogen | [H][H] | H2
reactant | 2-(4-phenoxyphenoxy)ethyl bromide | 4.0 mmol, 1.17 g | O(C1=CC=CC=C1)C1=CC=C(OCCBr)C=C1 | C14H13BrO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
product | 2-[2-(4-phenoxyphenoxy)ethylthio]-2-thiazoline | 887 mg | O(C1=CC=CC=C1)C1=CC=C(OCCSC=2SCCN2)C=C1 | C17H17NO2S2
